US05342941
1-(4-Pyridyl)- 2,3-bis(methoxycarbonyl)-6,7-dimethoxy-1,4-epoxy-1,4-dihydronaphthalene (3.0 g) and trifluoroborane.diethyl ether (1.95 g) are added to acetonitrile (100 ml), and the mixture is refluxed for 2 hours. The reaction solution is separated with a mixture of chloroform (300 ml) and aqueous sodium hydrogen carbonate solution (50 ml), and the organic layer is further washed with aqueous sodium hydrogen carbonate solution, dried, and concentrated. The resulting residue is washed with a small amount of diethyl ether to give 1-(4-pyridyl)-2,3-bis(methoxy-carbonyl)-6,7-dimethoxynaphthalene (2.1 g) as crystal.

reactant | 1-(4-Pyridyl)- 2,3-bis(methoxycarbonyl)-6,7-dimethoxy-1,4-epoxy-1,4-dihydronaphthalene | 3.0 g | N1=CC=C(C=C1)C12C(=C(C(C3=CC(=C(C=C13)OC)OC)O2)C(=O)OC)C(=O)OC | C21H19NO7
reactant | trifluoroborane | FB(F)F | BF3
reactant | diethyl ether | 1.95 g | C(C)OCC | C4H10O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(4-pyridyl)-2,3-bis(methoxy-carbonyl)-6,7-dimethoxynaphthalene | 2.1 g, Yield: 73% | N1=CC=C(C=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)C(=O)OC)C(=O)OC | C21H19NO6
